US05559111
2(R,S)-Methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(p-tert-butylphenyl)-octanoic acid (N-butyl)amide hydrochloride
111 mg of N-tert-butoxycarbonyl-2(R,S)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(p-tert-butyl-phenyl)-octanoic acid (N-butyl)amide are dissolved in 2 ml of 4N hydrochloric acid in dioxane at 0° C. and then stirred for 60 minutes at 20° C. The reaction mixture is concentrated by evaporation under reduced pressure and the residue is purified by means of FC (50 g of silica gel, dichloromethane/methanol=9:1). The title compound is obtained in the form of a diastereoisomeric mixture: Rf (dichloromethane/methanol=9:1)=0.20; Rt (I)=36.6 and 37.5 minutes; FAB-MS (M+H)+ =419.

reactant | N-tert-butoxycarbonyl-2(R,S)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(p-tert-butyl-phenyl)-octanoic acid (N-butyl)amide | 111 mg | C(CCC)NC(C(C[C@@H]([C@H](C[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C)NC(=O)OC(C)(C)C)O)C)=O | C31H54N2O4
reactant | hydrochloric acid | 4N, 2 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2(R,S)-Methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(p-tert-butylphenyl)-octanoic acid (N-butyl)amide hydrochloride | Cl.C(CCC)NC(C(C[C@@H]([C@H](C[C@H](CC1=CC=C(C=C1)C(C)(C)C)C(C)C)N)O)C)=O | InChI=1S/C26H46N2O2.ClH/c1-8-9-14-28-25(30)19(4)15-24(29)23(27)17-21(18(2)3)16-20-10-12-22(13-11-20)26(5,6)7;/h10-13,18-19,21,23-24,29H,8-9,14-17,27H2,1-7H3,(H,28,30);1H/t19?,21-,23-,24-;/m0./s1
